US06586422B2
A solution of 200 mg (0.67 mmol) of 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile in 10 ml of dichloromethane was cooled to 0° C. and treated with 332 mg (1.35 mmol) of 3-chloro-perbenzoic acid (70%). The reaction mixture was warmed up to room temperature and stirred overnight. For the working-up, the reaction mixture was diluted with 10 ml of dichloromethane and extracted twice with 10 ml of a saturated solution of sodium hydrogencarbonate. The combined organic phases were dried over sodium sulfate, and evaporated under reduced pressure. The resulting residue, 170 mg of a yellow powder, was purified by chromatograhy on silica gel with a 98:2 mixture of dichloromethane and methanol as eluent. There were obtained 154 mg (86% of theory) of 3-hydroxy-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile as a yellowish solid; MS: 266 (M−H).

reactant | 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | 0.67 mmol, 200 mg | CSC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N | C15H15N5S
reactant | 3-chloro-perbenzoic acid | 1.35 mmol, 332 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-hydroxy-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | 154 mg, 86% | OC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N | C14H13N5O
